US07714009B2
1-Mesityl-3-(4-methyl-3-nitrophenyl)thiourea
A mixture of 4-isothiocyanato-1-methyl-2-nitrobenzene (500 mg, 2.58 mmol) and 2,4,6-trimethylaniline (0.329 ml, 2.34 mmol) in methanol (10 ml) was refluxed for 4 h. The solvent was evaporated under vacuum. The residue was triturated with ether. The resulting solid was collected by filtration to afford 550 mg of the title compound.

reactant | 4-isothiocyanato-1-methyl-2-nitrobenzene | 2.58 mmol, 500 mg | N(=C=S)C1=CC(=C(C=C1)C)[N+](=O)[O-] | C8H6N2O2S
reactant | 2,4,6-trimethylaniline | 2.34 mmol, 0.329 ml | CC1=C(N)C(=CC(=C1)C)C | C9H13N
solvent | methanol | 10 ml | CO | CH4O
product | 1-Mesityl-3-(4-methyl-3-nitrophenyl)thiourea | 550 mg | C1(=C(C(=CC(=C1)C)C)NC(=S)NC1=CC(=C(C=C1)C)[N+](=O)[O-])C | C17H19N3O2S
